US07595405B2
EDCI (7.07 g, 36.9 mmol) was added in one portion to a stirred solution of 3-Iodo-5-nitro-benzoic acid (2.31 g, 24.6 mmol), HOBt (4.985 g, 36.9 mmol), 2-Amino-1-methoxypropane (2.73 ml, 24.6 mmol) and NMP (4.06 ml 36.9 mmol) in CH2Cl2 (120 ml) and DMF (10 ml) at 0° C. The reaction was allowed to warm to room temperature and was stirred over night. The reaction mixture was then washed with 2N NaOH, water, brine, and dried over Na2SO4. Solvent was removed in vacuo to give 2.50 g of 3-Iodo-N-(2-methoxy-1-methyl-ethyl)-5-nitro-benzamide as a yellow solid, MS (M+H)=365. This material was used without further purification.

reactant | EDCI | 36.9 mmol, 7.07 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | 3-Iodo-5-nitro-benzoic acid | 24.6 mmol, 2.31 g | IC=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-] | C7H4INO4
reactant | HOBt | 36.9 mmol, 4.985 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-Amino-1-methoxypropane | 24.6 mmol, 2.73 ml | NC(COC)C | C4H11NO
reactant | NMP | 36.9 mmol, 4.06 ml | CN1CCCC1=O | C5H9NO
solvent | CH2Cl2 | 120 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-Iodo-N-(2-methoxy-1-methyl-ethyl)-5-nitro-benzamide | 2.50 g | IC=1C=C(C(=O)NC(COC)C)C=C(C1)[N+](=O)[O-] | C11H13IN2O4
